US07700628B2
Preparation of 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]-N-(3-methylpyridin-2-yl)benzamide
Using methods substantially equivalent to those described in Example 118, 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(3-methylpyridin-2-yl)benzamide trifluoroacetate was prepared from 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one and 2-amino-3-methylpyridine.

reactant | 5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]-N-(3-methylpyridin-2-yl)benzamide trifluoroacetate | FC(C(=O)O)(F)F.FC=1C=CC(=C(C(=O)NC2=NC=CC=C2C)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 2-amino-3-methylpyridine | NC1=NC=CC=C1C | C6H8N2
product | 5-Fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)-benzoylamino]-N-(3-methylpyridin-2-yl)benzamide | FC=1C=CC(=C(C(=O)NC2=NC=CC=C2C)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C30H34FN5O3
